Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro
 
Attending: ___
 
Chief Complaint:
abd pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is a ___ year old man with past medical 
history significant for HIV on ART (reportedly with undetectable 
VL), HCV s/p Harvoni (reportedly with undetectable VL), CAD s/p 
multiple stents, CKD (baseline Cr 1.5), HTN, COPD and chronic 
diarrhea who presents abdominal pain.  
 He was recently hospitalized at ___ on ___ wherein he was 
treated for chronic diarrhea (found to be C. diff positive), 
hematuria, and abdominal pain. He also had a CAP pneumonia and 
had ___ while in house. He was discharged to rehab on ___ 
to rehab. While at rehab on ___ ___, he began to develop 
abdominal discomfort. He was given lactulose by the rehab. This 
pain continued into ___ AM and for this reason he was referred 
to the hospital. Mr ___ claims that this pain is identical 
to his episodes of abdominal pain over the past year and is in 
no way different than prior episodes in quality or quantity. 
Described as a whole abdominal cramping not worse/better with 
position, eating, or BMs. He says his abdomen is slightly more 
distended than normal. Last ___ was ___ after the lactulose, 
and he continues to pass gas.  
 He also claims that his COPD is at baseline. Not experiencing 
chest pains, neck, jaw, arm, back pain. No N/V. No shortness of 
breath. Denies coughing, sneezing or fevers. He stopped having 
hematuria many weeks ago. His diarrhea has improved 
significantly and he stopped taking vancomycin on the ___.  
 ED COURSE:  
 - Initial VS: 9 97.6 73 160/69 18 99% RA  
 - Exam notable for H/H ___ Plt 134 AP 167 AST 106 Lip 103 K 
5.5  
 - CT abdomen notable for a consolidation in the right lung base 
concerning for pneumonia. Small hiatal hernia. No acute 
intra-abdominal abnormality.  
 - Patient given vanco, zosyn, Zofran, morphine, nebs  
 - VS prior to transfer: 2 73 150/107 16 97% RA  
 REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, rhinorrhea, nasal congestion, cough, fevers, 
chills, sweats, weight loss, dyspnea, chest pain, nausea, 
vomiting, diarrhea, hematochezia, dysuria, rash, paresthesias.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +CKD, + HIV  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to mLCX on ___. LAD ___.  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 -HFpEF  
 -Mild AR  
 -CKD (Cr 1.4)  
 -PAD  
 -SIADH  
 -HIV  
 -HCV cirrhosis  
 -portal HTN  
 -GERD  
 -chronic diarrhea  
 -cervical stenosis  
 -COPD  
 -colonic polyps  
 -ACD  
 -G6PD deficiency  
 -peripheral neuropathy  
 -? pulmonary TB  
 -+RPR treated in the ___  
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: 98.0 167/69 73 18 96/RA  
 GENERAL: Pleasant, thin elderly man, in no apparent distress.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear without lesions or 
exudates.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat at 45 degrees.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: CTAB, Crackles on right lower bases.  
 ABDOMEN: Normal bowel sounds, soft. TTP in all quadrants. 
Mildly distended/tympanic, no organomegaly but exam limited 
secondary to discomfort.  
 EXTREMITIES: WWP, no c/c. 1+ dependent pitting edema of b/l 
LEs.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait not assessed.  

DISCHARGE PHYSICAL 
VS -  98.1 161/61 71 18 96%RA
Weight: 55.8kg
GENERAL: Pleasant, thin elderly man, in no apparent distress.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear without lesions or 
exudates.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat at 45 degrees.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: CTAB, without wheezes or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft. Mild RUQ tenderness. Mildly 
distended/tympanic, no organomegaly.  
 EXTREMITIES: WWP, no c/c. 1+ dependent pitting edema of b/l 
LEs.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait not assessed.  

 
Pertinent Results:
ADMISSION LABS
___ 05:18PM BLOOD WBC-4.6 RBC-2.70* Hgb-8.2* Hct-26.9* 
MCV-100* MCH-30.4 MCHC-30.5* RDW-14.2 RDWSD-51.3* Plt ___
___ 05:18PM BLOOD Neuts-35.4 ___ Monos-12.1 Eos-3.3 
Baso-0.2 Im ___ AbsNeut-1.63# AbsLymp-2.25 AbsMono-0.56 
AbsEos-0.15 AbsBaso-0.01
___ 06:15AM BLOOD ___ PTT-37.2* ___
___ 05:18PM BLOOD Glucose-111* UreaN-24* Creat-1.8* Na-136 
K-7.2* Cl-102 HCO3-24 AnGap-17
___ 05:18PM BLOOD Lipase-103*
___ 05:18PM BLOOD CK-MB-1 cTropnT-0.01
___ 05:18PM BLOOD Albumin-3.4* Calcium-8.6 Phos-4.0 Mg-1.7

TROPONIN TREND
___ 05:18PM BLOOD CK-MB-1 cTropnT-0.01
___ 10:40PM BLOOD cTropnT-0.02*
___ 06:15AM BLOOD CK-MB-2 cTropnT-0.02*

DISCHARGE LABS
___ 06:15AM BLOOD WBC-4.7 RBC-2.64* Hgb-8.1* Hct-26.5* 
MCV-100* MCH-30.7 MCHC-30.6* RDW-14.1 RDWSD-51.7* Plt ___
___ 06:15AM BLOOD Glucose-82 UreaN-20 Creat-1.9* Na-138 
K-4.7 Cl-101 HCO3-26 AnGap-16
___ 06:15AM BLOOD ALT-21 AST-33 LD(LDH)-195 CK(CPK)-65 
AlkPhos-162* TotBili-0.4
___ 06:15AM BLOOD Albumin-3.3* Calcium-8.9 Phos-4.3 Mg-1.7

IMAGING
RUQUS ___. Coarsened hepatic echotexture without focal liver lesion. 
2. Patent portal vein with normal hepatopetal flow. 
3. No biliary ductal dilatation. 

CT A/P ___
IMPRESSION:  
 1. Consolidation in the right lower lobe is similar to that 
seen on the prior chest radiograph from ___, compatible 
with pneumonia.  
 2. Liquid stool within the colon and rectum is consistent with 
the history of diarrhea. No acute intra-abdominal abnormality 
otherwise seen. 
 
 ___ CXR: IMPRESSION: Patchy right lower lobe opacity, not 
substantially changed in the interval, likely reflective of 
continued pneumonia. Trace right pleural effusion, perhaps 
minimally increased.  

 
Brief Hospital Course:
Mr ___ is a ___ year old man with past medical 
history significant for HIV on HAART (reportedly with 
undetectable VL), HCV s/p Harvoni (reportedly with undetectable 
VL), CAD s/p multiple stents, CKD (reported baseline Cr 1.5), 
HTN, COPD and chronic diarrhea who presented with abdominal pain 
and distention. No acute process was seen on CT A/P. CXR and a 
portion of CT again noted Right lower lung opacity, for which he 
was put on a 7 day course of levofloxacin. He had a slight 
troponinemia stable at 0.01-0.02 without evidence of ischemia. 
EKG without significant changes from prior. 

# Abdominal Pain/Distention: Pt's abdominal pain seems 
consistent with prior episodes. Diarrhea has resolved and he has 
completed course of PO vancomycin making C.Diff unlikely. CT A/P 
without acute process. RUQUS unchanged from prior. Patient does 
have history of HCV/HIV s/p treatment with last reported viral 
loads undetectable. Patient's pain resolved with Zofran and 
remained tolerable. 

 # Troponinemia: Patient presented with abdominal pain. EKG 
unchanged from prior and no classic symptoms (patient said 
previous angina pain was true chest discomfort). Trop was 
elevated on admission 0.01 (NOT <0.01) and then trended up to 
0.02. Despite history, very unlikely acute plaque rupture. 
Received 324 ASA in ED after second trop. In review of patients 
records, patient seems to have fluctuating low level trops at 
baseline, likely related to CKD. MBs remained flat and patient 
was maintained on ASA81. 

 # RLL Pneumonia: Unclear duration of onset. Patient does not 
report SOB above baseline and is currently satting well on room 
air. CT consolidation on CT is similar to prior. Patient dry 
cough, no fever, chills, or leukocytosis. Physical exam with R 
base rales. He initially received dose of HCAP coverage 
(vanc/zosyn) and was transitioned to 7 days of levofloxacin CAP 
coverage . His home nebulizers were continued. 

 CHRONIC ISSUES 
 # Anemia: Appears to be much higher than previous admission 
level, stable since last discharge. 

 # ___ vs CKD: Creatinine on presentation is 1.8 (reported 
baseline is 1.5, but no recent values are close to that level.) 
Unclear if patient reverted to new baseline, 

 # CAD: s/p DES to mid-LAD, D1, and distal RCA ___, s/p DES 
to ___ ___. 
 - Continued home carvedilol, statin continued to be held. 
 # HIV/HCV Co-infection/ Cirrhosis: c/b by known portal 
hypertension. Last EGD on ___ showed no esophageal varices. 
 - continued ART meds 
 # COPD: Currently without acute exacerbation. Patient denies 
increased sputum production. 
 - Home nebulizers 
 # HTN: BP moderately well controlled. 
 - Continued home isosorbide, hydralazine, carvedilol, 
amlodipine. 
 # HLD: Pravstatin continued to be held; recommend re-evaluating 

 # GERD: continued home omeprazole 

TRANSITIONAL
- Pneumonia: Patient started on levofloxacin for 7 day course. 
Given renal function he will receive 1 dose on ___, 1 dose on 
___, and 1 dose on ___.
- CAD: Patient's pravastatin was discontinued at last discharge. 
Consider restarting this as LFTs have normalized. 
- ART: Lamivudine at 100mg given renal function. Continue to 
monitor Creatinine to resume 150mg dosing. 

 # CONTACT: patient, niece ___ (___) ___ 
 # CODE STATUS: full code 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Abacavir Sulfate 300 mg PO BID 
2. Acetaminophen 325-650 mg PO Q6H:PRN pain 
3. Amlodipine 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Carvedilol 25 mg PO BID 
6. Diltiazem Extended-Release 120 mg PO DAILY 
7. Efavirenz 600 mg PO DAILY 
8. HydrALAZINE 75 mg PO QID 
9. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
11. Omeprazole 40 mg PO DAILY 
12. Desonide 0.05% Cream 1 Appl TP PRN apply to face as needed 
13. Docusate Sodium 100 mg PO BID 
14. ipratropium-albuterol ___ mcg/actuation INHALATION QID 
15. Multivitamins 1 TAB PO DAILY 
16. Sodium Bicarbonate 1300 mg PO TID 
17. LaMIVudine 100 mg PO DAILY 

 
Discharge Medications:
1. Abacavir Sulfate 300 mg PO BID 
2. Acetaminophen 325-650 mg PO Q6H:PRN pain 
3. Amlodipine 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Carvedilol 25 mg PO BID 
6. Desonide 0.05% Cream 1 Appl TP PRN apply to face as needed 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Efavirenz 600 mg PO DAILY 
10. HydrALAZINE 75 mg PO QID 
11. ipratropium-albuterol ___ mcg/actuation INHALATION QID 
12. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
13. LaMIVudine 100 mg PO DAILY 
14. Multivitamins 1 TAB PO DAILY 
15. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
16. Omeprazole 40 mg PO DAILY 
17. Sodium Bicarbonate 1300 mg PO TID 
18. Ondansetron 4 mg PO Q8H:PRN nausea 
19. Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN stomach 
pain 
20. Levofloxacin 750 mg PO Q48H Duration: 3 Doses 
1 dose ___, 1 dose ___, 1 dose ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Chronic Abdominal Pain
Pneumonia
HIV on ART
HCV s/p treatment
___ on CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for abdominal pain. 

WHAT WAS DONE
=============
-A scan of the belly did not reveal any concerning source of 
pain. 
-Scans of the lungs showed possible pneumonia and you were 
started on antibiotics. These will continue through ___.

WHAT TO DO NEXT
===============
-Take all medications as prescribed
-Continue taking ciprofloxacin. You will take 1 dose on ___, 1 
dose on ___, and 1 dose on ___.
-Follow up with your doctors as ___
-Call your doctor if you develop worsening abdominal pain, 
cough, fever, chills, or other symptoms that concern you. 

Wishing you the best of health moving forward,
Your ___ team

 
Followup Instructions:
___